US08012998B2
e) 5-Chloro-2-{(RS)-1-[(3SR,4RS)-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-pyridine (XII-B-14)
To a solution of 2-{(RS)-1-[(3SR,4RS)-1-benzyl-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine 570 mg (1.32 mmol) dissolved in toluene (12 mL) were added 0.43 mL (3.96 mmol) of 1-chloroethyl chloroformate and 0.68 mL (3.96 mmol) of Hunig's base. The reaction mixture was heated at 100° C. for one hour. After cooling down to RT, volatiles were removed under vacuo and the crude was dissolved in MeOH (10 mL). The reaction mixture was heated at 85° C. for 30 minutes and after cooling down to RT, volatiles were removed under vacuo and the residue was directly purified on column chromatography (SiO2, CH2Cl2/MeOH 9:1) yielded 350 mg (78%) of the title compound as a light yellow oil. ES-MS m/e: 339.1 (M+H+).

reactant | 2-{(RS)-1-[(3SR,4RS)-1-benzyl-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine | 1.32 mmol, 570 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C=C(C=C1)F)F)C(C)OC1=NC=C(C=C1)Cl | C24H23ClF2N2O
reactant | 1-chloroethyl chloroformate | 3.96 mmol, 0.43 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | Hunig's base | 3.96 mmol, 0.68 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-{(RS)-1-[(3SR,4RS)-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-pyridine | 350 mg, 78% | ClC=1C=CC(=NC1)OC(C)C1CNCC1C1=C(C=C(C=C1)F)F | C17H17ClF2N2O
